US08937150B2
N-(3-bromo-2-methyl-6-nitrophenyl)-2,2,2-trifluoroacetamide
To a solution of 3-bromo-2-methylaniline (1.0 g, 5.37 mmol) in CH2Cl2 (4.0 mL) at 0° C. was added trifluoroacetic anhydride (2.0 mL, 14.2 mmol). The mixture was stirred at 0° C. for 30 minutes, and solid potassium nitrate (0.679 g, 6.72 mmol) was added. The cooling bath was removed, and the mixture was stirred at room temperature overnight. LCMS showed a single product formed. The mixture was concentrated in vacuo, and the residue was partitioned between water and CH2Cl2 (2×).

reactant | 3-bromo-2-methylaniline | 5.37 mmol, 1.0 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | trifluoroacetic anhydride | 14.2 mmol, 2.0 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium nitrate | 6.72 mmol, 0.679 g | [N+](=O)([O-])[O-].[K+]
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
product | N-(3-bromo-2-methyl-6-nitrophenyl)-2,2,2-trifluoroacetamide | BrC=1C(=C(C(=CC1)[N+](=O)[O-])NC(C(F)(F)F)=O)C | C9H6BrF3N2O3
